US07622469B2
4-Octylamino-3,6-dihydro-6,6-dimethyl-2-phenethylamino-1,3,5-triazine acetate
150 ml of methanol, 150 ml of acetone and 0.8 ml of concentrated hydrochloric acid were added to 13.1 g (33.6 mmol) of N1-phenethyl-N5-octyl-biguanide dihydrochloride. The mixture was refluxed for 24 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in 150 ml of ethanol, and to the solution were added 100 ml of water and 13 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 1.5 hours, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was recrystallized two times from ethanol/ether to obtain 4.8 g of colorless crystals having a melting point of 86 to 88° C.

reactant | methanol | 150 ml | CO | CH4O
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N1-phenethyl-N5-octyl-biguanide dihydrochloride | 33.6 mmol, 13.1 g | Cl.Cl.C(CC1=CC=CC=C1)NC(=N)NC(=N)NCCCCCCCC
reactant | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-Octylamino-3,6-dihydro-6,6-dimethyl-2-phenethylamino-1,3,5-triazine acetate | 4.8 g | C(C)(=O)O.C(CCCCCCC)NC=1NC(=NC(N1)(C)C)NCCC1=CC=CC=C1 | InChI=1S/C21H35N5.C2H4O2/c1-4-5-6-7-8-12-16-22-19-24-20(26-21(2,3)25-19)23-17-15-18-13-10-9-11-14-18;1-2(3)4/h9-11,13-14H,4-8,12,15-17H2,1-3H3,(H3,22,23,24,25,26);1H3,(H,3,4)
